Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
dark stool
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy 
 
History of Present Illness:
This is a ___ otherwise healthy female that confirms the 
following:
1. ___ had fish for dinner. ___ down after dinner, felt 
nauseous, dizzy, vomited, no blood in the vomit, felt OK 
afterwards, and had dessert.
2. ___ had breakfast and lunch uneventfully; dinner of pizza, 
again, sat down, felt nauseous and dizzy, vomited, again no 
blood in the vomit. Felt OK afterwards again.
3. 1 am ___ morning ___ night) had large bowel movement 
with black gritty material. Called HCA re evaluation and seen in 
HCA today. Vital signs there were stable although HR a bit 
faster than typical, BP fine.
No fever, chills, sweats; no other bloody or black bowel 
movements; no abdominal pain or epigastric pain; no other 
concerning symptoms. She is concerned that her eyes seem more 
pale than usual.
In the ED, initial vs were: 98.2 144/80 89 18 100% on RA. 
Patient was given approximately 1000 of NS, lorazepam 1mg and 
patnoprazole 40mg IV x 1. She was since by GI who recommend 
admission and would assess for possible endoscopy in AM.
.
On the floor, she reports that his has h/o hemorrhoids, but has 
not had bleeding from that in 6 weeks. The stool is very dark. 
She not take iron or other supplements. She had no h/o abdominal 
problems except for s/p open choli ___ years ago for gall stone.
.
Review of sytems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias. 
 
Past Medical History:
1. History of scoliosis. Since childhood, intermittent
mid/upper back pain since then. Does not significantly inhibit
activities of daily living.
2. Urinary urge incontinence. Several-year history of
urge symptoms, well-controlled with Vesicare.
3. Osteopenia. Previous BMDs (since ___ all in osteopenic
range, most recently in ___ at ___ (while of Fosomax): T-1.4 
(AP
spine L1-L4), T-2.1 (left femoral neck), T-0.8 (total left hip),
T-1.6 (left forearm), and T-1.8 (total left forearm). On Fosamax
for ___ years, discontinued by me in ___. She takes calcium/D
supplements. She feels she has been dropping in height
(previously ___ to less the 5').
4. ___ cyst. Removed by Dr. ___ in ___.
5. Bilateral hand arthritis. Intermittent discomfort at the
base of both thumbs when doing repetitive movements for 
prolonged
periods (such as computer use). She uses p.r.n. Tylenol.
6. Left fifth finger flexion deformity. This appeared
after a hand injury in ___, improved without intervention.
7. Mild seasonal allergies. Does not use medication.
8. History elevated BP. Home BPs have been in the 122-141/75-88
range.
9. Insomnia. Her sleep has improved quite a bit with sleep
hygiene measures, used ___ Ambien tablet about every two weeks. 
 
Social History:
___
Family History:
Father with kidney cancer. Hodgkins lymphoma in mother. No 
siblings. FH of colon cancer. 
 
Physical Exam:
On Admission:
Vitals: 98.1 115/55 89 20 98% on RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, inside eyelids are pale, MMM, 
oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: non-focal 

On Discharge:
Vitals: 98.7 102/44 71 18 96% on RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, inside eyelids are pale, MMM, 
oropharynx clear
Neck: supple, JVP not elevated, no LAD
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi
CV: Regular rate, normal S1 + S2, no murmurs, rubs, gallops
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: non-focal 
 
Pertinent Results:
On Admission:

___ 02:25PM BLOOD WBC-10.5 RBC-3.20* Hgb-10.3* Hct-31.1* 
MCV-97 MCH-32.1* MCHC-33.1 RDW-12.2 Plt ___
___ 02:25PM BLOOD ___ PTT-27.8 ___
___ 02:25PM BLOOD Glucose-120* UreaN-26* Creat-0.6 Na-138 
K-4.0 Cl-102 HCO3-26 AnGap-14
___ 06:34AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.1
___ 02:25PM BLOOD calTIBC-356 VitB12-397 Folate-10.2 
Ferritn-82 TRF-274
___ 02:25PM BLOOD Iron-118
___ 02:30PM BLOOD Lactate-1.4

CBC trend:

___ 02:25PM BLOOD WBC-10.5 RBC-3.20* Hgb-10.3* Hct-31.1* 
Plt ___
___ 07:25PM BLOOD WBC-8.8 RBC-2.79* Hgb-9.1* Hct-27.0* Plt 
___
___ 10:45PM BLOOD WBC-8.0 RBC-2.62* Hgb-8.6* Hct-24.9* Plt 
___
___ 09:25AM BLOOD WBC-6.5 RBC-2.50* Hgb-8.2* Hct-24.3* Plt 
___

On Discharge:

___ 09:25AM BLOOD WBC-6.5 RBC-2.50* Hgb-8.2* Hct-24.3* 
MCV-97 MCH-32.9* MCHC-33.9 RDW-13.1 Plt ___
___ 06:34AM BLOOD Glucose-93 UreaN-14 Creat-0.6 Na-139 
K-3.8 Cl-105 HCO3-26 AnGap-12

EGD:
Impression: 
Erythema in the antrum compatible with gastritis
Ulcer in the pyloric channel with visible vessel (injection, 
thermal therapy)
Erythema in the first part of the duodenum compatible with 
duodenitis
Otherwise normal EGD to third part of the duodenum

Recommendations: 
Continue IV PPI for at least the next ___ hours to be followed by 
high dose PO PPI for the next 8 weeks
 
Brief Hospital Course:
This is an healthy ___ year female admitted for concern for upper 
GI bleed in the context of vomiting and melanotic stool.
.
#. upper GI bleed.  The patient was found to have an ulcer in 
the pyloric channel on EGD.  On admission until 24 hours after 
EGD, she was continued on IV pantoprazole, then started on an 8 
week course of an oral pantoprazole.  H. pylori serology were 
pending at the time of discharge (but ultimately returned 
positive and will be treated).  She was counseled on alcohol and 
caffeine use.  Aspirin was stopped and the patient was told to 
follow up with her PCP regarding restarting it.  She will follow 
up with her PCP for further management.

 
Medications on Admission:
1. aspirin 81mg daily
 
Discharge Medications:
1. Zolpidem Tartrate 10 mg PO HS:PRN insomnia 
2. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ulcer in the pyloric channel 
gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.  We found that you had an ulcer causing bleeing 
into your gastrointestinal tract.  During your endoscopy (EGD), 
doctors were ___ to inject the ulcer with medication to stop 
the bleeding.  You will need to take a medication that reduces 
your stomach acid for the next 8 weeks.  Please stop taking 
aspirin until you talk with your primary care doctor about 
restarting it.

___ follow up with your primary care doctor on ___ at 
8:50am.  (please see details below)
 
Followup Instructions:
___